US07335799B2
To a solution of 7-bromo-2,2-dimethylheptan-1-ol (36.0 g, 133.0 mmol) in dichloromethane (60 mL) was added p-toluenesulfonic acid (0.28 g, 1.3 mmol) and 3,4-dihydro-2H-pyran (18.54 g, 213 mmol) at 5-10° C. under cooling with an ice-water bath. The mixture was stirred and allowed to warm to room temperature overnight. The reaction solution was filtered through neutral alumina (200 g), which was rinsed with dichloromethane (500 mL). Concentration of the solvent gave the crude product as a brown oil, which was subjected to column chromatography on silica gel (240 g) using hexanes:ethyl acetate (50:1) as eluent to yield 2-(7-bromo-2,2-dimethylheptyloxy)-tetrahydropyran as a colorless oil (23.0 g, 48%). 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.54 (t, 1H, J=3.0 Hz), 3.84 (m, 1H), 3.51-3.39 (m, 4H), 2.98 (d, 1H, J=9.3 Hz), 1.89-1.80 (m, 3H), 1.70-1.40 (m, 7H), 1.29-1.22 (m, 4H), 0.89 (s, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 99.3, 76.6, 62.1, 39.3, 34.3, 34.2, 33.0, 30.8, 29.2, 25.7, 24.7, 23.2, 19.6. HRMS (LSIMS, nba): Calcd. for C14H27BrO2: 307.1272, found: 307.1245.

reactant | 7-bromo-2,2-dimethylheptan-1-ol | 133.0 mmol, 36.0 g | BrCCCCCC(CO)(C)C | C9H19BrO
reactant | 3,4-dihydro-2H-pyran | 213 mmol, 18.54 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | p-toluenesulfonic acid | 1.3 mmol, 0.28 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(7-bromo-2,2-dimethylheptyloxy)-tetrahydropyran | 23.0 g, 48% | BrCCCCCC(COC1OCCCC1)(C)C | C14H27BrO2
